US05068356
N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-4-methylhexahydrophthalimide
A mixture of 4-methylhexahydrophthalic anhydride (32.8 g, 200 mmol), 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide (58.4 g, 200 mmol) and 650 ml of xylene was refluxed for 90 minutes under a nitrogen atmosphere with the azeotropic removal of water. The solvent was removed on a rotary evaporator to afford approximately 89 g of a white solid having a melting range of 87°-92° C.

reactant | 4-methylhexahydrophthalic anhydride | 200 mmol, 32.8 g | CC1CC2C(C(=O)OC2=O)CC1 | C9H12O3
reactant | 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide | 200 mmol, 58.4 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
reactant | xylene | 650 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-4-methylhexahydrophthalimide | approximately 89 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN1C(C2C(C1=O)CC(CC2)C)=O | C26H38N2O4
